US08791267B2
5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-[1,3,4]thiadiazol-2-ylamine (P-333).
A mixture of (3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-acetic acid (I-79) (0.998 mmol, 1.0 eq.) and thiosemicarbazide (2.99 mmol; 3 eq.) in excess phosphorous oxychloride was heated to 120° C. for 45 minutes, and allowed to cool to room temperature. The resultant mixture was added to water, and extracted with 2 portions of ethyl acetate. The organics were washed with brine, and dried over magnesium sulfate. The residue was purified via flash chromatography on silica gel using 5% (1N NH3 in MeOH) in dichloromethane as eluent to afford the desired product (P-333) in 39% yield.

reactant | (3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-acetic acid | 0.998 mmol, 1.0 eq. | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC(=O)O)F | C15H12ClFO3
reactant | thiosemicarbazide | 2.99 mmol, 3 eq. | NNC(=S)N | CH5N3S
reactant | water | O | H2O
solvent | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(3′-Chloro-2-fluoro-6-methoxy-biphenyl-3-ylmethyl)-[1,3,4]thiadiazol-2-ylamine | 39% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)CC1=NN=C(S1)N)F | C16H13ClFN3OS
